US06933311B2
N-(2,4-dimethylbenzyl)-2-(5-isoquinolinyl)propanamide
The title compound was prepared using the procedure described in Example 222B using 2,4-dimethylbenzylamine and 2-(5-isoquinolinyl)propanoic acid instead of 4-(trifluoromethoxy)benzylamine and 5-isoquinolinylacetic acid. MS (ESI+) m/z 319 (M+H)+; MS (ESI−) m/z 317 (M−H)−; 1H NMR (DMSO, 300 MHz) δ 1.52 (d, J 7.1, 3H), 2.13 (s, 3H), 2.21 (s, 3H), 4.20 (m, 2H), 4.51 (q, J 7.1, 1H), 6.88 (d, J 7.5, 1H), 6.94 (s, 1H), 6.98 (d, J 7.5, 1H), 7.82 (t, J 7.8, 1H), 7.99 (d, J 6.5, 1H), 8.21 (d, J 8.1, 1H), 8.35 (d, J 6.4, 1H), 8.44 (t, J 5.8, 1H), 8.62 (d, J 6.2, 1H), 9.57 (s, 1H).

reactant | 2,4-dimethylbenzylamine | CC1=C(CN)C=CC(=C1)C | C9H13N
reactant | 2-(5-isoquinolinyl)propanoic acid | C1=NC=CC2=C(C=CC=C12)C(C(=O)O)C | C12H11NO2
reactant | 5-isoquinolinylacetic acid | C1=NC=CC2=C(C=CC=C12)CC(=O)O | C11H9NO2
product | N-(2,4-dimethylbenzyl)-2-(5-isoquinolinyl)propanamide | CC1=C(CNC(C(C)C2=C3C=CN=CC3=CC=C2)=O)C=CC(=C1)C | C21H22N2O
